US05962490
To a solution of (3,4-methylenedioxy)toluene (5 ml) in acetic acid (20 ml) cooled with a cold water bath was added, dropwise, nitric acid (70%, 5 ml). The mixture was stirred for 45 min. To work up, water (100 ml) was added and the resulting yellow precipitate was filtered and washed with water until the aqueous filtrate was colorless. The yellow solid was dissolved in EtOAc (250 ml) and dried (MgSO4), and the solid was filtered off. The filtrate was subjected to catalytic hydrogenation (10% Pd/C, 1 atm) for 12 hours. The reaction mixture was then filtered off the catalyst and the filtrate was concentrated on a rotavap to give (3,4-methylenedioxy)-6-methylaniline as a brownish grey solid (5.49 g, 87% yield).

reactant | (3,4-methylenedioxy)toluene | 5 ml | C1OC=2C=C(C=CC2O1)C | C8H8O2
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (3,4-methylenedioxy)-6-methylaniline | 5.49 g, 87% yield | C1OC=2C=C(N)C(=CC2O1)C | C8H9NO2
